US04695639
In 100 ml of acetone was suspended 5 g (0.017 mole) of methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate and 5.33 g (0.0255 mole) of t-butyl 2-bromopropionate was added. After a serial addition of 0.3 ml of water and 9.4 g of anhydrous potassium carbonate, the mixture was stirred at 40° C. for about 2.5 hours. After completion of the reaction, the insoluble matter was filtered off. To the filtrate was added 100 ml of water and the mixture was extracted with 150 ml of ethyl acetate. The organic layer was washed with 50 ml of saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated to dryness under reduced pressure. The concentrate was crystallized from ethyl acetate-isopropyl ether (1:5, v/v). After cooling to 0° C. or below, the crystalline precipitate was collected by filtration and dried under reduced pressrue to give 5.4 g (yield, 75.4%) of methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(t-butoxycarbonyl-1-methylmethoxyimino)acetate as white crystals.

reactant | methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate | 0.017 mole, 5 g | NC=1SC=C(N1)/C(/C(=O)OCCS(=O)(=O)C)=N/O | C8H11N3O5S2
reactant | t-butyl 2-bromopropionate | 0.0255 mole, 5.33 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
reactant | water | 0.3 ml | O | H2O
reactant | potassium carbonate | 9.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(t-butoxycarbonyl-1-methylmethoxyimino)acetate | 5.4 g, 75.4% | NC=1SC=C(N1)/C(/C(=O)OCCS(=O)(=O)C)=N/OC(C)C(=O)OC(C)(C)C | C15H23N3O7S2
